US07732365B2
A typical procedure is given for the reaction of entry 1 in Table 1. In a drybox, DABCO (5.6 mg, 0.050 mmol), [Ir(cod)Cl]2 (3.4 mg, 0.005 mmol) and (Ra,Rc,Rc)-7 (6.4 mg, 0.01 mmol) were dissolved in 0.5 mL of THF in a screw-capped vial. A small magnetic stirbar was added, and the vial were sealed with a cap containing a PTFE septum and removed from the drybox. Aniline (130 mg, mmol) and cinnamyl carbonate (188 mg, 0.979 mmol) were added to the reaction mixture by syringe. The reaction mixture was stirred at room temperature for 10 h and monitored by GC and TLC. After the reaction was complete, the volatile materials were evaporated. 1H NMR analysis of the residue crude mixture indicated the ratio of regioisomers to be greater than 99/1. The mixture was then purified by flash column chromatography on silica gel (1.5% ethyl acetate in hexanes) to give the desired α-Ethynyl-N-(p-tolyl)-benzenemethanamine (0.164 g, 80%). HPLC analysis indicated that the enantiomeric excess of the product was 95% [Diacel CHIRALCEL OD-H (0.46 cm×25 cm); hexanes/2-propanol=99.75/0/25; flow rate=0.6 mL/min; detection wavelength=254 nm; Tr=(major), (minor) min]. α-Ethynyl-N-phenylbenzenemethanamine. 1H NMR (400.13 MHz, CDCl3) δ 7.44-7.24 (m, 5H), 7.20-7.10 (m, 2H), 6.69 (t, J=7.2 Hz, 1H), 6.60 (d, J=8.0 Hz, 2H), 6.04 (ddd, J=16.8, 10.4, 6.4 Hz, 1H), 5.28 (dt, J=17.2, 1.2 Hz, 1H), 5.22 (dt, J=10.0, 1.2 Hz, 1H), 4.94 (t, J=4.4 Hz, 1H), 4.04 (br s, 1H).

reactant | Aniline | 130 mg | NC1=CC=CC=C1 | C6H7N
reactant | cinnamyl carbonate | 0.979 mmol, 188 mg | C(OCC=CC1=CC=CC=C1)([O-])=O
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | DABCO | 0.050 mmol, 5.6 mg | C1CN2CCN1CC2 | C6H12N2
product | α-Ethynyl-N-(p-tolyl)-benzenemethanamine | 0.164 g, 80% | C(#C)C(NC1=CC=C(C=C1)C)C1=CC=CC=C1 | C16H15N
